US07399759B2
N-[2-[6-(4-Oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]ethyl]-N′-phenylurea
A mixture of 2-[6-(2-aminoethyl)-2-pyridyl]-4H-1,3-benzothiazine-4-one trifluoroacetic acid salt (0.40 g, 1.0 mmol), potassium carbonate (0.41 g, 3.0 mmol) and acetonitrile (15 ml) was stirred at room temperature for 20 minutes. Successively phenyl isocyanate (0.47 g, 4.0 mmol) was added to the mixture, and the mixture was refluxed for 4 hrs. After cooling, the precipitates were collected by filtration and dissolved in chlorobenzene and water. The organic layer was dried over magnesium sulfate. The solvent was evaporated, and the residue was recrystallized from hexane-chlorobenzene to give the titled compound (0.07 g, 17%) as pale yellow crystals.

reactant | 2-[6-(2-aminoethyl)-2-pyridyl]-4H-1,3-benzothiazine-4-one trifluoroacetic acid salt | 1.0 mmol, 0.40 g | FC(C(=O)O)(F)F.NCCC1=CC=CC(=N1)C=1SC2=C(C(N1)=O)C=CC=C2
reactant | potassium carbonate | 3.0 mmol, 0.41 g | C([O-])([O-])=O.[K+].[K+]
reactant | phenyl isocyanate | 4.0 mmol, 0.47 g | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | N-[2-[6-(4-Oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]ethyl]-N′-phenylurea | 0.07 g, 17% | O=C1N=C(SC2=C1C=CC=C2)C2=CC=CC(=N2)CCNC(=O)NC2=CC=CC=C2 | C22H18N4O2S
